US05808062
6-(3,5-Dichlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3,5-dichloroacetophenone (2 g, 10.58 mmol), trimethylsilyl triflate (2.35 g, 10.58 mmol), triethylamine (2.14 g, 21.16 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (1.64 g, 5.29 mmol). Isolated yield: 70% m.p. 168°-169° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.42 (m, 1H), 6.92 (d, 1H), 7.01 (s, 1H), 7.06 (t, 1H), 7.13 (t, 1H), 7.28 (d, 1H), 7.83 (m, 1H), 7.88 (m, 2H).

reactant | 3,5-dichloroacetophenone | 10.58 mmol, 2 g | CC(=O)C1=CC(=CC(=C1)Cl)Cl | C8H6Cl2O
reactant | trimethylsilyl triflate | 10.58 mmol, 2.35 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 21.16 mmol, 2.14 g | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 5.29 mmol, 1.64 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(3,5-Dichlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | yield: 70% | ClC=1C=C(C=C(C1)Cl)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C20H16Cl2O3S
